US06436965B1
Step 3: Ethyl 5-Bromo-3-(phenylmethoxy)indole-2-carboxylate
To a solution containing 2.04 g of ethyl 5-bromo-3-hydroxyindole-2-carboxylate, 3.94 g of benzyl alcohol and 3.34 g of di-tert-butyl azodicarboxylate in 30 mL of THF and 15 mL of CH2Cl2 at −78° C. was treated dropwise with a solution containing 3.81 g of triphenylphosphine in 15 mL of CH2Cl2. The resulting reaction mixture was warmed slowly to 0° C. upon consumption of the starting material (monitored by TLC). 800 μL of acetic acid was added and after 30 min the solvents were removed under vacuum and the excess of acetic acid was removed by coevaporation with toluene. The crude product was filtered over a pad of silica gel eluting with CH2Cl2. The organic phase was concentrated to dryness and the solid was swished with hexane to give 2.13 g of the title compound as a white solid.

reactant | ethyl 5-bromo-3-hydroxyindole-2-carboxylate | 2.04 g | BrC=1C=C2C(=C(NC2=CC1)C(=O)OCC)O | C11H10BrNO3
reactant | benzyl alcohol | 3.94 g | C(C1=CC=CC=C1)O | C7H8O
reactant | di-tert-butyl azodicarboxylate | 3.34 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 3.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 800 μL | C(C)(=O)O | C2H4O2
product | Ethyl 5-Bromo-3-(phenylmethoxy)indole-2-carboxylate | 2.13 g | BrC=1C=C2C(=C(NC2=CC1)C(=O)OCC)OCC1=CC=CC=C1 | C18H16BrNO3
